US07683053B2
1-tert-Butoxycarbonyl-4-[2-(4-methylphenylsulfanyl)phenyl]piperidin-4-ol
A solution of BuLi (2.5 M in hexane, 12.0 ml, 30 mmol) was slowly added to a stirred solution of 1-bromo-2-(4-methylphenylsulfanyl)benzene (30 mmol) in dry THF (75 ml) under Argon at −78° C. The solution was stirred for 10 min before 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (5.98 g, 30 mmol) was added in one portion. The solution was allowed to warm up to room temperature and then stirred for 3 h. Saturated aqueous NH4Cl (150 ml) was added and the solution was extracted with ethylacetate (150 ml). The organic phase was washed with brine, dried (MgSO4) and the solvent was evaporated in vacuo. Crude 1 was purified by flash chromatography on silica gel (eluent: Ethylacetat/heptane 20:80) to produce the target compound as a white foam. LC/MS (m/z) 399.3 (MH+); RT=3.82; purity (UV, ELSD): 98%, 100%; yield: 5.02 g (42%).

reactant | BuLi | 30 mmol, 2.5 M, 12.0 ml | [Li]CCCC
reactant | 1-bromo-2-(4-methylphenylsulfanyl)benzene | 30 mmol | BrC1=C(C=CC=C1)SC1=CC=C(C=C1)C | C13H11BrS
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 30 mmol, 5.98 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | NH4Cl | 150 ml | [NH4+].[Cl-]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 1-tert-Butoxycarbonyl-4-[2-(4-methylphenylsulfanyl)phenyl]piperidin-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC=C1)SC1=CC=C(C=C1)C | C23H29NO3S
